US08475937B2
The hydrosilylation reaction of Example 1 was repeated using 18.7 g of 5-allyl-2,2′-bithiophene in place of 2-allylthiophene, 10 g of anhydrous toluene, 20 g of trichlorosilane, and 150 mg of Platinum Catalyst. 5-(3-Trichlorosilylpropyl)-2,2′-bithiophene was obtained as a colorless liquid: 1H NMR (CDCl3) δ 7.20 (dd, 1H, J=5.1, 1.2 Hz); 7.14 (dd, 1H, J=3.6, 0.9 Hz); 7.02 (m, 2H); 6.74 (d, 1H, J=3.6 Hz); 2.93 (t, 2H, J=7.2 Hz); 1.99 (m, 2H); 1.49 (m, 2H).

reactant | 5-allyl-2,2′-bithiophene | 18.7 g | C(C=C)C1=CC=C(S1)C=1SC=CC1 | C11H10S2
reactant | trichlorosilane | 20 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | Platinum | 150 mg | [Pt] | Pt
solvent | toluene | 10 g | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Trichlorosilylpropyl)-2,2′-bithiophene | Cl[Si](CCCC1=CC=C(S1)C=1SC=CC1)(Cl)Cl | C11H11Cl3S2Si
